US06127360
Synthesis of 7-{3-[4-(2-quinolylmethyl)-1-piperazinyl]propoxy}-3,4-dihydro-2H-1,4-benzothiazin-3-one-1-oxide
A mixture consisting of 7-(3-chloropropoxy)-3,4-dihydro-2H-1,4-benzothiazin-3-one-1-oxide (2.02 g, 7.38 mmol), N-(2-quinolylmethyl)piperazine (2.52 g, 11.07 mmol), potassium carbonate (2.04 g, 14.76 mmol), potassium iodide (2.45 g, 14.76 mmol) and DMF (50 ml) was stirred at 80° C. for 4 hours. The solvent was distilled off from the reaction mixture under reduced pressure, followed by the addition of water. The resulting mixture was extracted with chloroform-methanol (10:1). The extract was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column while using chloroform-ammonia-saturated methanol (10:1) as an eluent. Fractions containing the target compound were collected and then concentrated under reduced pressure, whereby 1.23 g of the title compound was obtained as a yellow oil (4.49 mmol, 60.9%).

reactant | 7-(3-chloropropoxy)-3,4-dihydro-2H-1,4-benzothiazin-3-one-1-oxide | 7.38 mmol, 2.02 g | ClCCCOC1=CC2=C(NC(CS2=O)=O)C=C1 | C11H12ClNO3S
reactant | N-(2-quinolylmethyl)piperazine | 11.07 mmol, 2.52 g | N1=C(C=CC2=CC=CC=C12)CN1CCNCC1 | C14H17N3
reactant | potassium carbonate | 14.76 mmol, 2.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 14.76 mmol, 2.45 g | [I-].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 7-{3-[4-(2-quinolylmethyl)-1-piperazinyl]propoxy}-3,4-dihydro-2H-1,4-benzothiazin-3-one-1-oxide | 1.23 g | N1=C(C=CC2=CC=CC=C12)CN1CCN(CC1)CCCOC1=CC2=C(NC(CS2=O)=O)C=C1 | C25H28N4O3S
